US06573263B2
60 mg (0.13 mmol) of 7-(1-acetyl-4-cyclohexylbutyl)-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one are reacted analogously to Example 12 with 15 mg (0.40 mmol) of sodium borohydride to give 7-[4-cyclohexyl-1-(1-hydroxyethyl)butyl]-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 7-(1-acetyl-4-cyclohexylbutyl)-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.13 mmol, 60 mg | C(C)(=O)C(CCCC1CCCCC1)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)C | C27H36N4O4
reactant | sodium borohydride | 0.40 mmol, 15 mg | [BH4-].[Na+]
product | 7-[4-cyclohexyl-1-(1-hydroxyethyl)butyl]-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCCCC1)CCCC(C(C)O)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)C | C27H38N4O4
